US03952031
2β-Azido-3α-hydroxy-5α-pregnane-11,20-dione
3α-hydroxy-2β-toluene-p-sulphonyloxy-5α-pregnane-11,20-dione (500 mg) was dissolved in dimethylsulphoxide (20 ml) and sodium azide (1.5 g) added to the solution. The mixture was heated on a steam bath for 30 hours, cooled and poured into water. The precipitate formed was filtered off, dissolved in ether and the solution dried over anhydrous sodium sulphate. The dried solution was evaporated to a foam (300 mg) which was purified by preparative T.L.C. using ethyl acetate/petrol (1/1). The main band (Rf 0.2-0.3) giving title compound (200 mg) as a foam, [α]D + 104° (c 0.93), identical with the above compound.

reactant | 3α-hydroxy-2β-toluene-p-sulphonyloxy-5α-pregnane-11,20-dione | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OS(=O)(=O)C1=CC=C(C=C1)C)C)=O)C | C28H38O6S
reactant | sodium azide | 1.5 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 2β-Azido-3α-hydroxy-5α-pregnane-11,20-dione | 200 mg | N(=[N+]=[N-])[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C21H31N3O3
